US05559111
d) 2(S)-Tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester
To a solution of 2.6 g of 2(S)-amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester in 50 ml of dichloromethane there are added dropwise at 0° C. 2 ml of ethyldiisopropylamine and then a solution of 2.4 g of di-tert-butyl dicarbonate in 10 ml of dichloromethane. The reaction mixture is stirred for 16 hours at room temperature and then concentrated by evaporation. The title compound is obtained by FC (240 g of silica gel, eluant: dichloromethane): Rf (dichloromethane)=0.50.

reactant | 2(S)-amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester | 2.6 g | COC([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)N)=O | C19H31NO2
reactant | ethyldiisopropylamine | 2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2(S)-Tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester | COC([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)=O | C24H39NO4
